US07572809B2
Similar procedure as described in example 131 was used, starting from (1-chloro-6-methoxy-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine and thianaphthene-3-boronic acid to give (1-benzo[b]thiophen-3-yl-6-methoxy-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine. LC-MS m/e 373(MH+).

reactant | (1-chloro-6-methoxy-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC(=CC=C12)OC)NC1=NNC=C1 | C13H11ClN4O
reactant | thianaphthene-3-boronic acid | B(C1=CSC2=CC=CC=C12)(O)O | C8H7BO2S
product | (1-benzo[b]thiophen-3-yl-6-methoxy-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine | S1C2=C(C(=C1)C1=NC(=CC3=CC(=CC=C13)OC)NC1=NNC=C1)C=CC=C2 | C21H16N4OS
